US05663200
11d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-methoxyphenyl)-2(R)-(phenylmethyl)hexanoic acid
2.9 g (6.54 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-methoxyphenyl)-2(R)-(phenylmethyl)hexanoic acid in 7 ml of DMF are silylated, at RT for 20 h and under an N2 atmosphere, with 4.5 g (30 mmol) of tert-butyldimethylchlorosilane and 3.65 g (53.6 mmol) of imidazole. The reaction mixture is poured onto 500 ml of ice-water, and this mixture is extracted 3× with ethyl acetate. The organic phases are washed with 10% citric acid solution, 2× water and saline, dried with Na2SO4 and evaporated. Hydrolysis of the residue in 80 ml of methanol and 30 ml of THF with 5.4 g of potassium carbonate and 30 ml of water, working up after 3 h in analogy with Example 7c), and column chromatography (SiO2, hexane/ethyl acetate, 2:1), affords the title compound: TLC Rf (D)=0.13; tRet (II)=20.3 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-methoxyphenyl)-2(R)-(phenylmethyl)hexanoic acid | 6.54 mmol, 2.9 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O)CC1=CC=C(C=C1)OC | C25H33NO6
reactant | tert-butyldimethylchlorosilane | 30 mmol, 4.5 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 53.6 mmol, 3.65 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | 30 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-methoxyphenyl)-2(R)-(phenylmethyl)hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)OC | C31H47NO6Si
